US08497264B2
A vial was charged with (S)-7-bromo-3-chloro-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine (546.36 mg, 1.435 mmol), 2-fluoropyridin-3-ylboronic acid (303 mg, 2.153 mmol), potassium phosphate (914 mg, 4.31 mmol), and bis[di-tert-butyl(4-dimethylaminophenyl)phosphine]dichloropalladium(II) (50.8 mg, 0.072 mmol). The vial was flushed with Argon, and then dioxane (5383 μL) and water (1794 μL) were added. The vial was sealed and heated in a Biotage Initiator microwave reactor for 20 min at 90° C. The reaction mixture was diluted with water and extracted with EtOAc (3×). The combined organic extracts were dried over sodium sulfate, concentrated under reduced pressure. The residue was purified by chromatography (0-100% EtOAc/Hexane) to give (S)-3-chloro-7-(2-fluoropyridin-3-yl)-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine (510.4 mg, 95% purity) as an off-white solid.

reactant | (S)-7-bromo-3-chloro-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine | 1.435 mmol, 546.36 mg | BrC=1C=C2C(=CC1)OC=1C=NC(=CC1[C@]21COCC(=N1)N)Cl | C15H11BrClN3O2
reactant | 2-fluoropyridin-3-ylboronic acid | 2.153 mmol, 303 mg | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | potassium phosphate | 4.31 mmol, 914 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | (S)-3-chloro-7-(2-fluoropyridin-3-yl)-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine | 510.4 mg, 95% | ClC1=CC2=C(C=N1)OC1=CC=C(C=C1[C@@]21COCC(=N1)N)C=1C(=NC=CC1)F | C20H14ClFN4O2
